US04683276
B. Preparation of 3-(2,5-dihydro-2,5-dioxo-1H-pyrrol-1-yl)phenyl cyanate
A 34.05 gram portion of N-(3-hydroxyphenyl)maleimide (0.18 mole), 20.02 grams of cyanogen bromide (0.189 mole) and 300 milliliters of acetone were added to a reactor and maintained under a nitrogen atmosphere with stirring. The stirred solution was cooled to -10° C. then 18.31 grams of triethylamine (0.1809 mole) was added to the reactor over a fifteen minute (900 s) period and so as to maintain the reaction temperature at -5° to -4° C. After completion of the triethylamine addition, the reactor was maintained at -5° to -3° C. for an additional thirty minutes (1800 s), followed by addition of the reactor contents to 1500 milliliters of deionized water. After five minutes (300 s), the water and product mixture was multiply extracted with three 100 milliliter volumes of methylene chloride. The combined methylene chloride extract was washed with 500 milliliters of 0.05 percent aqueous hydrochloric acid followed by washing with 500 milliliters of deionized water then drying over anhydrous sodium sulfate. The dry methylene chloride extract was filtered and solvent removed by rotary evaporation under vacuum for 60 minutes at 60° C. 3-(2,5-dihydro-2,5-dioxo-1H-pyrrol-1-yl)phenyl cyanate (34.25 grams) was recovered in 88.9 percent yield as a light tan colored powder. Infrared spectrophotometric analysis of a film sample of the product confirmed the product structure (disappearance of phenolic hydroxyl absorbance, appearance of cyanate absorbance at 2232 and 2274 cm-1, maintenance of maleimide carbonyl absorbance at 1714 cm-1).

reactant | N-(3-hydroxyphenyl)maleimide | 0.18 mole | OC=1C=C(C=CC1)N1C(C=CC1=O)=O | C10H7NO3
reactant | cyanogen bromide | 0.189 mole, 20.02 grams | N#CBr | CBrN
reactant | acetone | 300 milliliters | CC(=O)C | C3H6O
reactant | triethylamine | 0.1809 mole, 18.31 grams | C(C)N(CC)CC | C6H15N
solvent | water | 1500 milliliters | O | H2O
product | 3-(2,5-dihydro-2,5-dioxo-1H-pyrrol-1-yl)phenyl cyanate | 88.9 percent yield | O=C1N(C(C=C1)=O)C=1C=C(C=CC1)OC#N | C11H6N2O3
